US04994482
Methyl 3,4,5-triphenyl-lH-pyrazole-1-decanoate
The title compound (1.03 g, 62%) was prepared from 3,4,5-triphenyl-lH-pyrazole-1-decanoic acid (1.60 g) by esterification in methanol using a catalytic amount of conc. sulfuric acid. MS(CI): m/e =481 (MH+).

reactant | 3,4,5-triphenyl-lH-pyrazole-1-decanoic acid | 1.60 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCCC(=O)O | C31H34N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | Methyl 3,4,5-triphenyl-lH-pyrazole-1-decanoate | 1.03 g, 62% | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCCC(=O)OC | C32H36N2O2
